* /Users/laurent/Desktop/Q3/Analog electronics/project/FINAL_PROJECT_LAURENT/LTspice/final_project.asc
* Generated by LTspice 26.0.2 for MacOS.
Vsupply vdd 0 1.1
Vcm N002 0 0.50
VacP inP N002 SINE(0 50u 1k) AC 0.5
Mp8 diode0 diode0 vdd vdd p_11_sprvt l=500n w=7.62u m=4
Mp7 source diode0 vdd vdd p_11_sprvt l=500n w=7.87u m=4
Mp1 diode1 inN source source p_11_sprvt l=1u w=9.17u m=12
Mp2 out1 inP source source p_11_sprvt l=1u w=9.17u m=12
Mn4 out1 diode1 0 0 n_11_sprvt l=1u w=3.01u m=2
Mn3 diode1 diode1 0 0 n_11_sprvt l=1u w=3.01u m=2
Mn6 out out1 0 0 n_11_sprvt l=125n w=9.74u m=8
Mp5 out diode0 vdd vdd p_11_sprvt l=500n w=9.92u m=24
Rm out N001 210
Cm N001 out1 2.5p
Ibias diode0 0 196µ
Cload out 0 10p
Efb N003 0 out 0 1
R1 N003 inN_DC 1K
C1 inN_DC 0 10
VacN inN_DC inN SINE(0 50u 1k) AC 0.5
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\crossover\AppData\Local\LTspice\lib\cmp\standard.mos
.include BSIM4_UMC65.lib
.ac dec 20 1k 100G
.options logopinfo
.temp 27
.meas OP Pdiss PARAM -V(vdd)*I(Vsupply)
.backanno
.end
