* /Users/laurent/Desktop/Q3/Analog electronics/project/FINAL_PROJECT_LAURENT/LTspice/final_project_noise.asc
* Generated by LTspice 26.0.2 for MacOS.
vdd N001 0 1.1
vcm N006 0 0.5
E1 vinn N006 N006 vinp 1
V1 vinp N006 SINE(0 100u 1k) AC 10m
Mp8 N002 N002 N001 N001 p_11_sprvt l=500n w=7.62u m=4
Mp7 N003 N002 N001 N001 p_11_sprvt l=500n w=7.87u m=4
Mp1 N005 vinn N003 N003 p_11_sprvt l=1u w=9.17u m=12
Mp2 vinter vinp N003 N003 p_11_sprvt l=1u w=9.17u m=12
Mn4 vinter N005 0 0 n_11_sprvt l=1u w=3.01u m=2
Mn3 N005 N005 0 0 n_11_sprvt l=1u w=3.01u m=2
Mn6 vout vinter 0 0 n_11_sprvt l=125n w=9.74u m=8
Mp5 vout N002 N001 N001 p_11_sprvt l=500n w=9.92u m=24
Rm vout N004 210.52
Cm N004 vinter 2.5p
Ibias N002 0 196µ
Cload vout 0 10p
R1 vout vinter 1G
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\crossover\AppData\Local\LTspice\lib\cmp\standard.mos
.include BSIM4_UMC65.lib
.noise V(vout) V1 dec 20 1k 10G
.meas NOISE out_totnVrms INTEG V(onoise) FROM 10000 TO 800000000
.meas NOISE out_mp1nVrms INTEG V(mp1) FROM 10000 TO 800000000
.meas NOISE out_mp2nVrms INTEG V(mp2) FROM 10000 TO 800000000
.meas NOISE out_mp7nVrms INTEG V(mp7) FROM 10000 TO 800000000
.meas NOISE out_mp8nVrms INTEG V(mp8) FROM 10000 TO 800000000
.meas NOISE out_mp5nVrms INTEG V(mp5) FROM 10000 TO 800000000
.meas NOISE out_mn6nVrms INTEG V(mn6) FROM 10000 TO 800000000
.meas NOISE out_mn4nVrms INTEG V(mn4) FROM 10000 TO 800000000
.meas NOISE out_mn3nVrms INTEG V(mn3) FROM 10000 TO 800000000
.meas NOISE out_rmnVrms INTEG V(rm) FROM 10000 TO 800000000
* RMS total noise calculated at the output
* RMS noise contribution from each element seen at the output
.temp 27
.backanno
.end
